US04323710
SYNTHESIS OF 2-HYDROXY-4-OCTYLOXY-BENZOPHENONE
To a 250 ml 3-neck round bottom flask is charged 21.4 g of 2,4-dihydroxybenzophenone, 16.3 g of octyl chloride, 5.6 g of sodium carbonate, 0.664 g of potassium iodide, and 21.4 g of Igepal CO-630. The mixture is heated to 155° C. with vigorous stirring. Sufficient water, generated by the reaction, is distilled out to allow the reaction to reach temperature; any co-distilling octyl chloride (upper layer) is returned to the reactor. The reaction is then kept at 155° C. for 2 hours. Thereafter excess octyl chloride and water are recovered at 11 mm and 155° C.; which about 15 minutes is required to recover 0.7 g of a cloudy yellow liquid. The reactor then is cooled to 45° C. and 30 ml of acetone is added to precipitate salts and facilitate filtration. The mixture is filtered through a warm fitted glass funnel and the salt cake is washed once with 20 ml of acetone. The acetone in the filtrate is recovered in vacuo for recycle, initially at a pot T=80° C. at 18-23" of Hg and finally at 110° C. and 11 mm. The filtrate, containing surfactant and product, a volume of 40 ml is diluted with 85 ml of methanol and cooled to -8° C. to precipitate the product, which is filtered and washed twice with 40 ml of -8° C. methanol. The product is sucked dry for 5 minutes and then used in the next step. From the filtrate, methanol and surfactant are recovered for recycle.

reactant | 2,4-dihydroxybenzophenone | 21.4 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | octyl chloride | 16.3 g | C(CCCCCCC)Cl | C8H17Cl
reactant | sodium carbonate | 5.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.664 g | [I-].[K+]
reactant | Igepal CO-630 | 21.4 g | CCCCCCCCCC1=CC=C(C=C1)OCCOCCO | C19H32O3
solvent | water | O | H2O
product | 2-HYDROXY-4-OCTYLOXY-BENZOPHENONE | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OCCCCCCCC | C21H26O3
